US06544984B1
4-But-2-ynyloxybenzenesulfonyl chloride
To a solution of 0.146 g (1.0 mmol) of but-2-ynyloxybenzene in 0.3 mL of dichloromethane in an acetone/ice bath under N2 was dropwise added a solution of 0.073 mL (1.1 mmol) of chlorosulfonic acid in 0.3 mL of dichloromethane. After the addition was complete, the ice bath was removed and the reaction was stirred at room temperature for 2 h. To the reaction was then dropwise added 0.113 mL (1.3 mmol) of oxalyl chloride, followed by 0.015 mL DMF. The reaction was heated to reflux for 2 h and then diluted with hexane and poured into ice water. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to provide 0.130 mg (53%) of the desired product as a light brown solid.

reactant | but-2-ynyloxybenzene | 1.0 mmol, 0.146 g | C(C#CC)OC1=CC=CC=C1 | C10H10O
reactant | chlorosulfonic acid | 1.1 mmol, 0.073 mL | ClS(=O)(=O)O | ClHO3S
reactant | oxalyl chloride | 1.3 mmol, 0.113 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.015 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 4-But-2-ynyloxybenzenesulfonyl chloride | 0.130 mg, 53% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
